Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
R ring finger partial ringertip amputation
 
Major Surgical or Invasive Procedure:
___ - right ring ___ flap (ulnar side) for 
partial ringertip amputation (___)

 
History of Present Illness:
Ms. ___ is a ___, RHD who presents w/ a R ring finger injury
d/t a lawnmower. She reports that she had been cleaning her
lawnmower at home when she got her R hand caught and the
lawnmower turned on catching her R ring finger. She had 
immediate
pain and bleeding and went to ___. They gave her Ancef,
her TDAP was up to date. She had a local block done and was
irrigated at the beside and transferred for further eval and
managment.
 
Past Medical History:
Depression

 
Social History:
___
Family History:
NC
 
Physical Exam:
Preop:
Right upper extremity:
- distal R ring fingertip amputated w/ visible oozing at
fingertip, volarly angulated, nail intact
- no visible bone or tendon
- Soft, non-tender arm and forearm
- Full, painless AROM/PROM of elbow, wrist, and digits
- Able to make composite fist
- EPL/FPL/DIO (index) fire
- SILT axillary/radial/median/ulnar nerve distributions, SILT
grossly intact in ring finger but local block in place
- 2+ radial pulse

Post op:
splint c/d/i
SILT over distal fingers
Distal fingers wwp
flap w/ cap refill <3s
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have R ring finger partial amputation and was admitted to the 
orthopedic surgery service. The patient was taken to the 
operating room on ___ for right ring ___ flap 
(ulnar side) , which the patient tolerated well. For full 
details of the procedure please see the separately dictated 
operative report. The patient was taken from the OR to the PACU 
in stable condition and after satisfactory recovery from 
anesthesia was transferred to the floor. The patient was 
initially given IV fluids and IV pain medications, and 
progressed to a regular diet and oral medications by POD#1. The 
patient was given ___ antibiotics and anticoagulation 
per routine. The patient's home medications were continued 
throughout this hospitalization. The ___ hospital course 
was otherwise unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, dressings were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
NWB in the RUE  extremity, and will be discharged on Augmentin. 
The patient will follow up with Dr. ___ routine. A 
thorough discussion was had with the patient regarding the 
diagnosis and expected post-discharge course including reasons 
to call the office or return to the hospital, and all questions 
were answered. The patient was also given written instructions 
concerning precautionary instructions and the appropriate 
follow-up care. The patient expressed readiness for discharge.
 
Medications on Admission:
Citalopram
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet by mouth 
every twelve (12) hours Disp #*20 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID  
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth q4h prn Disp #*20 Tablet 
Refills:*0 
5.  Senna 8.6 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
R ring finger partial amputation

 
Discharge Condition:
Stable

 
Discharge Instructions:
INSTRUCTIONS AFTER HAND SURGERY:

- You were in the hospital for HAND surgery. It is normal to 
feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- Non weight bearing R upper extremity

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

WOUND CARE:
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- Splint must be left on until follow up appointment unless 
otherwise instructed
- Do NOT get splint wet

 
Followup Instructions:
___